US06821980B1
(42a) Tetrahydrofuran-2-yl-methanesulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester
Starting from tetrahydrofuran-2-yl)-methanesulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester (220 mg; 0.5 mmol), 3-aminophenyl-boron acid (98 mg; 0.63 mmol), tetrakis-triphenylphosphine-palladium (29 mg; 0.03 mmol) and aqueous 2 M sodium carbonate solution (3.2 ml; 6.4 mmol) in a 4/1 dimethoxyethane/ethanol mixture (10 ml) (52%) tetrahydrofuran-2-yl-methanesulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester are obtained as a yellow foam.

reactant | methanesulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester | 0.5 mmol, 220 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OS(=O)(=O)C)I)OCC | C14H17IN4O4S
reactant | 3-aminophenyl-boron | 0.63 mmol, 98 mg | NC=1C=C(C=CC1)[B] | C6H6BN
reactant | sodium carbonate | 6.4 mmol, 2 M, 3.2 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethoxyethane ethanol | 10 ml | C(OC)COC.C(C)O
product | Tetrahydrofuran-2-yl-methanesulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)CC1OCCC1 | C24H29N5O5S
